### PR TITLE
feat : add push_neg tactic

### PR DESCRIPTION
**Pull request by alicelaroche**
This tactic push negations by generating a new expression and an equality proof.

### CODE REVIEW

File: Mathlib/Tactic/Pushneg.lean [hunk 1]
```diff
@@ -0,0 +1,120 @@
...
+open Lean.Elab.Term
+
+
+theorem not_not_eq (h : p = p') : (¬¬p) = p' := h ▸ (propext not_not)
+theorem not_and_eq (h : p = p')    (h' : (¬q) = q') : (¬ (p ∧ q)) = (p' → q') := h ▸ h' ▸ propext not_and
+theorem not_or_eq  (h : (¬p) = p') (h' : (¬q) = q') : (¬ (p ∨ q)) = (p' ∧ q') := h ▸ h' ▸ propext not_or_distrib
+theorem not_forall_eq {s s' : α -> Prop} (h : ∀x, (¬s x) = s' x) : (¬ ∀x, s x) = (∃ x, s' x) := funext h ▸ propext not_forall
+theorem not_exists_eq {s s' : α -> Prop} (h : ∀x, (¬s x) = s' x) : (¬ ∃x, s x) = (∀ x, s' x) := forall_congr h ▸ propext not_exists
+
+def myTelescope (e : Expr) (f : Expr -> Expr -> MetaM α) : MetaM α := do
```
Comment (arthurpaulino) [inline Mathlib/Tactic/Pushneg.lean:26]: I think this function could have a clearer name.

**Review by arthurpaulino — COMMENTED** [review]
The functions are missing docstrings.

A minor thing is coding style, although I don't know to which extent we want to enforce it at this moment. The code has ascii arrows and a different tab length from the rest of the repo.

**Comment by gebner** [comment]
I think it would be better to implement this is a custom simp set (see `registerSimpAttr`).  Then it would be easy to extend it to other quantifiers that we have in mathlib (like `∀ᶠ` and co.).

**Comment by Seiryn21** [comment]
While i think it would be better too, the problem is that rw or simp change binded variables names .
For example we have : 
```lean
example : ¬∀(n m: Nat), m > n + 1 := by
  trace_state         --¬∀(n m: Nat), m > n + 1
  rw [not_forall]
  trace_state         --∃ x x_1, ¬x_1 > x + 1
  sorry
```
And i think it can be pretty confusing if you have too many binders

File: Mathlib/Tactic/Pushneg.lean [hunk 2]
```diff
@@ -0,0 +1,119 @@
...
+open Lean.Expr
+open Lean.Elab.Term
+
+theorem not_not_eq (h : p = p') : (¬¬p) = p' := h ▸ (propext not_not)
+theorem not_and_eq (h : p = p')    (h' : (¬q) = q') : (¬ (p ∧ q)) = (p' → q') := h ▸ h' ▸ propext not_and
+theorem not_or_eq  (h : (¬p) = p') (h' : (¬q) = q') : (¬ (p ∨ q)) = (p' ∧ q') := h ▸ h' ▸ propext not_or_distrib
+theorem not_forall_eq {s s' : α → Prop} (h : ∀x, (¬s x) = s' x) : (¬ ∀x, s x) = (∃ x, s' x) := funext h ▸ propext not_forall
+theorem not_exists_eq {s s' : α → Prop} (h : ∀x, (¬s x) = s' x) : (¬ ∃x, s x) = (∀ x, s' x) := forall_congr h ▸ propext not_exists
+
+def binderTelescope1 (e : Expr) (f : Expr → Expr → MetaM α) : MetaM α := do
```
Comment (gebner) [inline Mathlib/Tactic/Pushneg.lean:25]:
```suggestion
def withLocalFromBinder (e : Expr) (f : Expr → Expr → MetaM α) : MetaM α := do
```
"Telescope" refers to a sequence of binders.

File: Mathlib/Tactic/Pushneg.lean [hunk 3]
```diff
@@ -0,0 +1,119 @@
...
+match e with
+| Expr.lam n t b d => withLocalDecl n d.binderInfo t fun x => f x (instantiate1 b x)
+| Expr.forallE n t b d => withLocalDecl n d.binderInfo t fun x => f x (instantiate1 b x)
+| _ => throwError "binder expected{indentExpr e}"
+
+partial def pushNegation (expr : Expr) : MetaM (Expr × Expr) := do
```
Comment (gebner) [inline Mathlib/Tactic/Pushneg.lean:31]:
```suggestion
partial def pushNegation (expr : Expr) : MetaM Simp.Result := do
```

There are functions that chain simp results, then you don't need to bother with `isAppOf ``Eq.refl`

File: Mathlib/Tactic/Pushneg.lean [hunk 4]
```diff
@@ -0,0 +1,119 @@
...
+            let eqProof ← mkAppOptM ``not_forall_eq #[none, none, none, eqProof]
+            return (eNew, eqProof)
+        | _ =>
+          let (eNew, eqProof) ← pushNegation expr'
+          let eqProof ← mkCongr (←mkEqRefl (mkConst `Not)) eqProof
+          return (mkNot eNew, eqProof)
+   | _ =>
+      let (e₁', eqProof₁) ← pushNegation e₁
+      let (e₂', eqProof₂) ← pushNegation e₂
+      let eqProof ← mkCongr eqProof₁ eqProof₂
```
Comment (gebner) [inline Mathlib/Tactic/Pushneg.lean:89]: This will only work if e₁ has a non-dependent type.   I think it would be more robust to specifically check for Or/And (binary connectives) and Neg (unary connectives) and Exists here.

File: Mathlib/Tactic/Pushneg.lean [hunk 5]
```diff
@@ -0,0 +1,119 @@
...
+
+def binderTelescope1 (e : Expr) (f : Expr → Expr → MetaM α) : MetaM α := do
+match e with
+| Expr.lam n t b d => withLocalDecl n d.binderInfo t fun x => f x (instantiate1 b x)
+| Expr.forallE n t b d => withLocalDecl n d.binderInfo t fun x => f x (instantiate1 b x)
+| _ => throwError "binder expected{indentExpr e}"
+
+partial def pushNegation (expr : Expr) : MetaM (Expr × Expr) := do
+match expr with
+| Expr.forallE n t b _ =>
```
Comment (gebner) [inline Mathlib/Tactic/Pushneg.lean:33]: This doesn't handle implication, that is, I think it would fail for `¬ (a ∧ b) → c`

File: Mathlib/Tactic/Pushneg.lean [hunk 6]
```diff
@@ -0,0 +1,119 @@
...
+   | _ =>
+      let (e₁', eqProof₁) ← pushNegation e₁
+      let (e₂', eqProof₂) ← pushNegation e₂
+      let eqProof ← mkCongr eqProof₁ eqProof₂
+      return (mkApp e₁' e₂', eqProof)
+| _ => return (expr, ←mkEqRefl expr)
+
+
+def pushnegTarget : TacticM Unit := do
+let target ← getMainTarget
```
Comment (gebner) [inline Mathlib/Tactic/Pushneg.lean:95]: If you use `Simp.Result`, then there are nice helper functions for this.

File: Mathlib/Tactic/Pushneg.lean [hunk 7]
```diff
@@ -0,0 +1,119 @@
...
+
+def pushNegLocalDecl (fvarId : FVarId): TacticM Unit := do
+let target ← getLocalDecl fvarId
+let (eNew, eqProof) ← pushNegation target.type
+if ! eqProof.isAppOf ``Eq.refl
+then
+  let mvarId' ← replaceLocalDecl (← getMainGoal) fvarId  eNew eqProof
+  replaceMainGoal [mvarId'.mvarId]
+else
+  throwError "Pushneg couldn't find a negation to push"
```
Comment (gebner) [inline Mathlib/Tactic/Pushneg.lean:112]:
```suggestion
  throwError "push_neg couldn't find a negation to push"
```

BTW, I don't think that was the behavior in Lean 3.  AFAICT push_neg doesn't fail if it can't do anything.

File: Mathlib/Tactic/Pushneg.lean [hunk 8]
```diff
@@ -0,0 +1,119 @@
...
+open Lean.Elab.Term
+
+theorem not_not_eq (h : p = p') : (¬¬p) = p' := h ▸ (propext not_not)
+theorem not_and_eq (h : p = p')    (h' : (¬q) = q') : (¬ (p ∧ q)) = (p' → q') := h ▸ h' ▸ propext not_and
+theorem not_or_eq  (h : (¬p) = p') (h' : (¬q) = q') : (¬ (p ∨ q)) = (p' ∧ q') := h ▸ h' ▸ propext not_or_distrib
+theorem not_forall_eq {s s' : α → Prop} (h : ∀x, (¬s x) = s' x) : (¬ ∀x, s x) = (∃ x, s' x) := funext h ▸ propext not_forall
+theorem not_exists_eq {s s' : α → Prop} (h : ∀x, (¬s x) = s' x) : (¬ ∃x, s x) = (∀ x, s' x) := forall_congr h ▸ propext not_exists
+
+def binderTelescope1 (e : Expr) (f : Expr → Expr → MetaM α) : MetaM α := do
+match e with
```
Comment (gebner) [inline Mathlib/Tactic/Pushneg.lean:26]:
```suggestion
  match e with
```

Definitions are now indented in Lean 4.

File: Mathlib.lean [hunk 9]
```diff
@@ -71,6 +71,7 @@ import Mathlib.Tactic.NormNum
 import Mathlib.Tactic.OpenPrivate
 import Mathlib.Tactic.PermuteGoals
 import Mathlib.Tactic.PrintPrefix
+import Mathlib.Tactic.Pushneg
```
Comment (gebner) [inline Mathlib.lean:74]:
```suggestion
import Mathlib.Tactic.PushNeg
```

File: Mathlib/Tactic/Pushneg.lean (hunk 3 above)
Comment (Seiryn21) [reply Mathlib/Tactic/Pushneg.lean:46]: Maybe I didn't find the helpers, but to me if i use Simp.Result i will need to to `match r.proof? with` instead of `isAppOf ``Eq.refl` which is pretty much the same.
And almost everywhere else i will need to use r.getProof, so it don't really seem worth it.

File: Mathlib/Tactic/Pushneg.lean (hunk 5 above)
Comment (Seiryn21) [reply Mathlib/Tactic/Pushneg.lean:48]: The handling of such expression will occur in the `Expr.app` case, as it begin by a negation.
However you're right, it will treat the implication as a normal forall, so it will be transformed into an existantial. I will change that.

Comment (Seiryn21) [reply Mathlib/Tactic/Pushneg.lean:48]: Ah right, i forget there could be a negation in the domain. I will change that here and for all binder/quantifier.

Comment (Seiryn21) [reply Mathlib/Tactic/Pushneg.lean:48]: This also remind that implication must be transformed into and, not into existential binder.

File: Mathlib/Tactic/Pushneg.lean (hunk 4 above)
Comment (Seiryn21) [reply Mathlib/Tactic/Pushneg.lean:104]: Do you think you can exhibit a case where it doesn't work because e₁ is a dependent-type ?

Comment (gebner) [reply Mathlib/Tactic/Pushneg.lean:104]:
```lean
example (p : Bool) : decide (¬ ¬ p) = p := by push_neg
```

**Comment by arthurpaulino** [comment]
Why close?
@Seiryn21 do you need help on this one?
